US06914160B1
(4-Isocyano-cyclohex-3-enyl)-benzene
Potassium tert-butoxide (34.3 g, 306 mmol) was added portionwise to a solution of 4-phenyl-1-formamidocyclohexene (13.6 g, 68 mmol) (Biiorg. Med. Chem; 8; 6; 2000; 1343) in tert-butanol (150 ml), and the mixture stirred for 2 hours, with sufficient heating to ensure solution. Phosphorous oxychloride (7.82 g, 51 mmol) was added dropwise, with cooling of the reaction vessel, and once additon was complete, the reaction was stirred at room temperature for 24 hours. TLC analysis showed starting material remaining, so additional potassium tert-butoxide (3.8 g, 34 mmol) and phosphorous oxychloride (1.57 ml, 17 mmol) were added, and the reaction stirred for a further 45 minutes. The mixture was concentrated under reduced pressure, the residue poured into brine (500 ml) and extracted with dichloromethane (100 ml, 3×50 ml). The combined organic solutions were washed with water (100 ml), brine (200 ml), dried (Na2SO4) and evaporated under reduced pressure. The crude product was purified by column chromatography on silica gel using hexane:ethyl acetate (90:10) as eluant to afford the title compound, 5.8 g.

reactant | Potassium tert-butoxide | 306 mmol, 34.3 g | CC(C)([O-])C.[K+]
reactant | 4-phenyl-1-formamidocyclohexene | 68 mmol, 13.6 g | C1(=CC=CC=C1)C1CC=C(CC1)NC=O | C13H15NO
reactant | Phosphorous oxychloride | 51 mmol, 7.82 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | potassium tert-butoxide | 34 mmol, 3.8 g | CC(C)([O-])C.[K+]
reactant | phosphorous oxychloride | 17 mmol, 1.57 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | tert-butanol | 150 ml | C(C)(C)(C)O | C4H10O
product | (4-Isocyano-cyclohex-3-enyl)-benzene | [N+](#[C-])C1=CCC(CC1)C1=CC=CC=C1 | C13H13N
